US07767675B2
Step 6. methyl 2-fluoro-4-(oxoacetyl)benzoate
A mixture of methyl 4-acetyl-2-fluorobenzoate (1.6 g, 8.2 mmol) and 8.8M hydrogen bromide in water (2.8 mL) in dimethyl sulfoxide (20 mL) was stirred at 60° C. overnight. After cooling, the mixture was poured into ice-water. The reaction mixture was extracted with diethyl ether. The combined organic extracts were washed with brine, dried over sodium sulfate, filtered and concentrated to yield the desired product which was used in the next reaction step without further purification. (1.60 g, 93.3%).

reactant | methyl 4-acetyl-2-fluorobenzoate | 8.2 mmol, 1.6 g | C(C)(=O)C1=CC(=C(C(=O)OC)C=C1)F | C10H9FO3
reactant | hydrogen bromide | 8.8M | Br | BrH
reactant | water | 2.8 mL | O | H2O
solvent | dimethyl sulfoxide | 20 mL | CS(=O)C | C2H6OS
product | methyl 2-fluoro-4-(oxoacetyl)benzoate | FC1=C(C(=O)OC)C=CC(=C1)C(C=O)=O | C10H7FO4
